US07858796B2
(17) 3-(4-piperidinyl)-5-(2-thienyl)-1H-indole-7-carboxamide
To a solution of 1,1-dimethylethyl 4-[7-(aminocarbonyl)-5-(2-thienyl)-1H-indol-3-yl]-1-piperidinecarboxylate (90 mg, 0.22 mmol) in MeOH (3 mL), HCl (4.0M in dioxane, 2.06 mL) was added. The reaction mixture was stirred at ambient temperature for 2 hours, after which time the solvent was removed under reduced pressure and the resulting residue was partitioned between ethyl acetate (10 mL) and 10% sodium hydroxide (10 mL). The aqueous layer was extracted with ethyl acetate (10 mL×2) and the combined organic phase was dried over MgSO4 and concentrated to give a crude product (53 mg, 77%). This was used directly in the next step without further purification.

reactant | 1,1-dimethylethyl 4-[7-(aminocarbonyl)-5-(2-thienyl)-1H-indol-3-yl]-1-piperidinecarboxylate | 0.22 mmol, 90 mg | NC(=O)C=1C=C(C=C2C(=CNC12)C1CCN(CC1)C(=O)OC(C)(C)C)C=1SC=CC1 | C23H27N3O3S
solvent | MeOH | 3 mL | CO | CH4O
solvent | HCl | 4.0M, 2.06 mL | Cl | ClH
product | 3-(4-piperidinyl)-5-(2-thienyl)-1H-indole-7-carboxamide | 53 mg, 77% | N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC=CC1)C(=O)N | C18H19N3OS
